US06756378B2
To a stirred mixture of (2S,4S)-4-acetoxy-1tert-butoxycarbonyl-2-pyrrolidinemethanol (9.70 g, 37.4 mmol), p-hydroxybenzoic acid methyl ester (5.69 g, 37.4 mmol) and PPh3 (10.8 g, 41.1 mmol) in THF (200 ml) was added DIAD (8.10 ml, 41.1 mmol) at room temperature. After 1.5 h stirring, the mixture was concentrated in vacuo. The resulting residue was chromatographed on silica gel [700 g, CHCl3/EtOAc (10/1)], to give methyl 4-[(2S,4S)-4-acetoxy-1-tert-butoxycarbonyl-2-pyrrolidinyl]methoxybenzoate (11.8 g, 81%) as a pale yellow oil. 1H-NMR (CDCl3) δ1.48 (s, 9H), 2.03 (s, 3H), 2.27 (m, 2H), 3.46 (m, 1H), 3.72 (m, 1H), 3.88 (s, 3H), 3.98 (t, J=9.0 Hz, 1H), 4.21-4.47 (m, 2H), 5.31 (br, 1H), 6.96 (br, 2H), 7.98 (d, J=8.8 Hz, 2H).

reactant | (2S,4S)-4-acetoxy-1tert-butoxycarbonyl-2-pyrrolidinemethanol | 37.4 mmol, 9.70 g | C(C)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C12H21NO5
reactant | p-hydroxybenzoic acid methyl ester | 37.4 mmol, 5.69 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | PPh3 | 41.1 mmol, 10.8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 41.1 mmol, 8.10 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | methyl 4-[(2S,4S)-4-acetoxy-1-tert-butoxycarbonyl-2-pyrrolidinyl]methoxybenzoate | 11.8 g, 81% | C(C)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COC1=CC=C(C(=O)OC)C=C1 | C20H27NO7
